US04143154
To a solution of 0.0066 ml. of sodium ethoxide in 50 ml. of ethanol is added 1.2 g. (0.0066 mole) of ethyl 3-hydroxyphenylacetate. The mixture is heated at its reflux temperature for three hours, then 2 g. (0.006 mole) of 5-bromomethyl-2-nitro-3-phenylbenzofuran is added. The mixture is heated at its reflux temperature for 16 hours. On cooling of the reaction mixture a yellow precipitate is obtained which is separated by filtration. Recrystallization from a mixture of hexane and benzene provides ethyl 3[(2-nitro-3-phenylbenzofuran-5-yl)methoxy]phenylacetate, m.p. 67°-68° C.

reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | ethyl 3-hydroxyphenylacetate | 0.0066 mole | OC=1C=C(C=CC1)CC(=O)OCC | C10H12O3
reactant | 5-bromomethyl-2-nitro-3-phenylbenzofuran | 0.006 mole | BrCC=1C=CC2=C(C(=C(O2)[N+](=O)[O-])C2=CC=CC=C2)C1 | C15H10BrNO3
solvent | ethanol | C(C)O | C2H6O
product | ethyl 3[(2-nitro-3-phenylbenzofuran-5-yl)methoxy]phenylacetate | [N+](=O)([O-])C=1OC2=C(C1C1=CC=CC=C1)C=C(C=C2)COC=2C=C(C=CC2)CC(=O)OCC | C25H21NO6
